Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-6.87066267377
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]#[C:8][H:9]>>[C:7]#[C:8][H:9].[H:1][C:2][O:3][C:4]([H:5])=[O:6],1.6057074532100002
[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3]/[C:5](=[C:6]/[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:4],1.97671606292
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1].[O:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],2.52256557972
[H:1][O:2][C:3]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.1042406877
[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])[H:9]>>[H:4].[O:1]=[C:2]=[C:3][C:5][O:6][C:7]([H:8])[H:9],3.23196982189
[O:1][C:2]([H:3])([H:4])[C:5][O:6][H:7]>>[H:4].[O:1]=[C:2]([H:3])[C:5][O:6][H:7],1.39079653102
[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][O:6],2.89826014216
[H:1][C:2][O:3][C:4]([H:5])[C:9]([C:6][O:7][H:8])([H:10])[H:11]>>[H:1][C:2][O:3][C@@:4]1([H:5])[C:6]([O:7][H:8])[C:9]1([H:10])[H:11],-1.3715858902899998
[C:1]#[C:2][O:3][C:4]([H:5])[O:6][H:7]>>[C:1]#[C:2][O:3][C:4]([H:5])=[O:6].[H:7],2.0882985723500003
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][H:4],1.12018963382
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13],4.49524020442
[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2][C:3]([H:4])([H:5])[H:6]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.12046086563
[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[H:9].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-4.778393958090001
[C:10]([H:11])[H:12].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][H:9]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-8.38429065521
[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-7.1853187944300005
[H:1][C:2]([H:3])[C:4][C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]#[C:7][C:9]([H:10])[H:11].[H:8],2.90097071268
[H:16].[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.56410547809
[C:10]([H:11])([H:12])=[C:13]([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:15]([H:16])([H:17])[H:18],1.21101649
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13].[H:1][C:2],4.9902490003
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]#[C:3][O:4],2.99128553845
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9],1.80526740818
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],1.61773557092
[H:11].[H:1][C:2]([H:3])[C:4]#[C:5][C:6]#[C:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-3.00745813939
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]1/[O:9][C:10]1([H:11])[H:12]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8][O:9][C:10]([H:11])[H:12],1.82070457051
[H:1][C:2]([H:3])=[C:4]([H:5])[C:9]([C:6]([H:7])[H:8])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C@:4]1([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-0.2007964083799999
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][H:4],1.27227565614
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]=[O:7])[O:8][H:9]>>[C:1]#[C:2][H:3].[C:4]([H:5])(=[C:6]=[O:7])[O:8][H:9],1.5250794266499998
[C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9],-6.5325857574300015
